### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/Sites): characterization of sheaves for the `P`-qc topology

### PR DESCRIPTION
**Pull request by chrisflav**
From Proetale.

---

- [x] depends on: #34923 
- [x] depends on: #34921 
- [x] depends on: #34995 
- [x] depends on: #35508 
- [x] depends on: #35698 
- [x] depends on: #35509
- [x] depends on: #26231 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Sites/QuasiCompact.lean [hunk 1]
```diff
@@ -192,6 +193,17 @@ lemma Cover.mem_propQCTopology {S : Scheme.{u}} (𝒰 : Cover.{u} (precoverage P
   refine Precoverage.generate_mem_toGrothendieck ⟨?_, 𝒰.mem₀⟩
   rwa [presieve₀_mem_qcPrecoverage_iff]
 
+lemma zariskiTopology_le_propqcTopology [P.IsMultiplicative] [IsZariskiLocalAtSource P] :
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/QuasiCompact.lean]:
```suggestion
lemma zariskiTopology_le_propQCTopology [P.IsMultiplicative] [IsZariskiLocalAtSource P] :
```

File: Mathlib/AlgebraicGeometry/Sites/SheafQuasiCompact.lean [hunk 2]
```diff
@@ -0,0 +1,108 @@
...
+open Scheme
+
+variable {P : MorphismProperty Scheme.{u}} [P.IsStableUnderBaseChange]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- A presheaf of types is a sheaf for the `P`-qc topology if and only if it is a sheaf
+for the Zariski topology and satisfies the sheaf property for all single object coverings
+`{ f : Spec S ⟶ Spec R }` where `f` satisifies `P`. -/
+@[stacks 022H]
+nonrec lemma isSheaf_type_propqcTopology_iff [P.IsMultiplicative] (F : Scheme.{u}ᵒᵖ ⥤ Type*)
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/SheafQuasiCompact.lean]:
```suggestion
nonrec lemma isSheaf_type_propQCTopology_iff [P.IsMultiplicative] (F : Scheme.{u}ᵒᵖ ⥤ Type*)
```

File: Mathlib/AlgebraicGeometry/Sites/SheafQuasiCompact.lean [hunk 3]
```diff
@@ -0,0 +1,108 @@
...
+      have : Surjective (Sigma.desc 𝒰.f) := inferInstanceAs <| Surjective (Sigma.desc 𝒰.forgetQc.f)
+      infer_instance
+
+variable {A : Type*} [Category* A]
+
+/-- A presheaf is a sheaf for the `P`-qc topology if and only if it is a sheaf
+for the Zariski topology and satisfies the sheaf property for all single object coverings
+`{ f : Spec S ⟶ Spec R }` where `f` satisifies `P`. -/
+@[stacks 022H]
+nonrec lemma isSheaf_propqcTopology_iff [P.IsMultiplicative] (F : Scheme.{u}ᵒᵖ ⥤ A)
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Sites/SheafQuasiCompact.lean]:
```suggestion
nonrec lemma isSheaf_propQCTopology_iff [P.IsMultiplicative] (F : Scheme.{u}ᵒᵖ ⥤ A)
```
